US08044041B2
Synthesis of N-(4-Chloro-1-oxo-1,2-dihydro-phthalazin-6-yl)-3-methoxy-benzamide
A mixture of 6-bromo-4-chloro-2H-phthalazin-1-one (100 mg, 0.39 mmol), 3-methoxy-benzamide (64 mg, 0.42 mmol), Pd2(dba)3 (36 mg, 0.039 mmol), xantphos (68 mg, 0.12 mmol) and Cs2CO3 (607 mg, 0.98 mmol) in dioxane (5 mL) was purged with nitrogen for 10 min. The mixture was place in a microwave reactor for 5 min. After this time the mixture was filtered and purified by preparative HPLC to yield the title compound hydroformate. m/z (M+H)=329.96, 1H-NMR (DMSO-d6) δ: 12.75 (s, 1H), 10.85 (s, 1H), 8.63 (s, 1H), 8.25 (m, 2H), 7.60 (d, 1H), 7.56 (s, 1H), 7.45 (t, 1H), 7.20 (dd, 1H), 3.85 (s, 3H).

reactant | 6-bromo-4-chloro-2H-phthalazin-1-one | 0.39 mmol, 100 mg | BrC=1C=C2C(=NNC(C2=CC1)=O)Cl | C8H4BrClN2O
reactant | 3-methoxy-benzamide | 0.42 mmol, 64 mg | COC=1C=C(C(=O)N)C=CC1 | C8H9NO2
reactant | xantphos | 0.12 mmol, 68 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 0.98 mmol, 607 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.039 mmol, 36 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(4-Chloro-1-oxo-1,2-dihydro-phthalazin-6-yl)-3-methoxy-benzamide | ClC1=NNC(C2=CC=C(C=C12)NC(C1=CC(=CC=C1)OC)=O)=O | C16H12ClN3O3
